US06887871B2
d) 2-[[(1R)-3-Azido-1-phenylpropyl]oxy]-4-bromo-5-fluorobenzonitrile
This was prepared by the method of Example 68(b) using 4-bromo-2-[[(1R)-3-chloro-1-phenylpropyl]oxy]-5-fluorobenzonitrile and sodium azide.

reactant | 4-bromo-2-[[(1R)-3-chloro-1-phenylpropyl]oxy]-5-fluorobenzonitrile | BrC1=CC(=C(C#N)C=C1F)O[C@H](CCCl)C1=CC=CC=C1 | C16H12BrClFNO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 2-[[(1R)-3-Azido-1-phenylpropyl]oxy]-4-bromo-5-fluorobenzonitrile | N(=[N+]=[N-])CC[C@H](C1=CC=CC=C1)OC1=C(C#N)C=C(C(=C1)Br)F | C16H12BrFN4O
